US07410984B2
(±)-3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)-butyric acid (E9)
(±)-3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)-butyric acid methyl ester (0.21 g, 0.41 mmol) was dissolved in tetrahydrofuran (3 mL) and aqueous lithium hydroxide (0.5 M, 3 mL) added with stirring. The mixture was heated at 65° C. for 2 hours and then allowed to cool and concentrated in vacuo. The mixture was acidified with hydrochloric acid (2M), extracted with ethyl acetate (2×25 mL) and the combined organic layers washed with brine and dried over anhydrous magnesium sulfate. After filtration and evaporation to dryness the title compound was obtained as a white solid.

reactant | (±)-3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)-butyric acid methyl ester | 0.41 mmol, 0.21 g | COC(CC(C)C1=CC=C(C=C1)CN1C(C(=CC=C1)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C31H31N3O4
reactant | lithium hydroxide | 0.5 M, 3 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (±)-3-(4-{2-Oxo-3-[4-(3-o-tolyl-ureido)phenyl]-2H-pyridin-1-ylmethyl}phenyl)-butyric acid | O=C1N(C=CC=C1C1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)CC1=CC=C(C=C1)C(CC(=O)O)C | C30H29N3O4
